US04036629
ACETIC ACID, 3-(3,4-EPOXY-4-METHYLCYCLOHEXYL)BUTYL ESTER
The procedure of Example 1 was followed for the epoxidation of 4.2g (0.02 mole) of acetic acid, 3-(4-methyl-3-cyclohexenyl)butyl ester using 4.1g (0.02 mole) of 85% m-chloroperbenzoic acid in 150 ml of methylene chloride. Obtained was 4.1g of pure acetic acid, 3-(3,4-epoxy-4-methylcyclohexyl) butyl ester as a clear, colorless liquid. (See Table I).

reactant | acetic acid, 3-(4-methyl-3-cyclohexenyl)butyl ester | 0.02 mole, 4.2g | C(C)(=O)OCCC(C)C1CC=C(CC1)C | C13H22O2
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | ACETIC ACID, 3-(3,4-EPOXY-4-METHYLCYCLOHEXYL)BUTYL ESTER | C(C)(=O)OCCC(C)C1CC2C(CC1)(C)O2 | C13H22O3
